US06576637B1
10.5 g of 4-(trifluoromethoxy)benzaldehyde, 5.72 g of malonic acid, 8.5 g of ammonium acetate and 40 ml of ethanol are boiled under reflux for 8 hours and stirred at room temperature overnight. The cooled reaction mixture is then filtered with suction, washed with ethanol and ether and dried in air. 3-amino-3-(4-trifluoromethoxyphenyl)propionic acid is obtained, melting point 258-260°.

reactant | 4-(trifluoromethoxy)benzaldehyde | 10.5 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | malonic acid | 5.72 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 8.5 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-amino-3-(4-trifluoromethoxyphenyl)propionic acid | NC(CC(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C10H10F3NO3
